US04080458
Add dropwise 0.37 g. 9,11-dihydroxy-15-oxo-13-thia-5-prostenoic acid, dissolved in 10 ml. dry diethyl ether, to a methyl magnesium iodide solution, prepared from 0.024 g. magnesium shavings and 0.14 g. methyl iodide in 15 ml. dry diethyl ether, stir the reaction for one hour, pour into 50 ml. saturated aqueous NH4Cl solution, extract with diethyl ether, dry the organic phase over Na2SO4 and distill off the solvent to obtain, as the residue, 9,11,15-trihydroxy-15-methyl-13-thia-5-prostenoic acid.

reactant | 9,11-dihydroxy-15-oxo-13-thia-5-prostenoic acid | OC1[C@H](CC=CCCCC(=O)O)[C@H](C(C1)O)SCC(CCCCC)=O | C19H32O5S
reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 9,11,15-trihydroxy-15-methyl-13-thia-5-prostenoic acid | OC1[C@H](CC=CCCCC(=O)O)[C@H](C(C1)O)SCC(CCCCC)(C)O | C20H36O5S
